US07528140B2
{[Benzylamino]methylene}methane-1,1-dicarbonitrile was synthesized in the same manner using (ethoxymethylene)methane-1,1-dicarbonitrile and benzylamine. The NMR data for this compound are shown below.

reactant | (ethoxymethylene)methane-1,1-dicarbonitrile | C(C)OC=C(C#N)C#N | C6H6N2O
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | {[Benzylamino]methylene}methane-1,1-dicarbonitrile | C(C1=CC=CC=C1)NC=C(C#N)C#N | C11H9N3
